US09382231B2
Step 5: 4-{3-(Cyanomethyl)-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-2,5-difluoro-N-[(1S)-2,2,2-trifluoro-1-methylethyl]benzamide
A mixture of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (1.00 g, 5.15 mmol), 4-[3-(cyanomethylene)azetidin-1-yl]-2,5-difluoro-N-[(1S)-2,2,2-trifluoro-1-methylethyl]benzamide (1.78 g, 5.15 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (0.31 mL, 2.1 mmol) in acetonitrile (20.2 mL) was heated at 50° C. overnight. After cooling, the solvent was removed under reduced pressure. The residue was used in the next step without further purification. LCMS cacld. for C24H28BF5N5O3 (M+1)+: m/z=540.2. Found: 540.1.

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 5.15 mmol, 1.00 g | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | 4-[3-(cyanomethylene)azetidin-1-yl]-2,5-difluoro-N-[(1S)-2,2,2-trifluoro-1-methylethyl]benzamide | 5.15 mmol, 1.78 g | C(#N)C=C1CN(C1)C1=CC(=C(C(=O)N[C@H](C(F)(F)F)C)C=C1F)F | C15H12F5N3O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 2.1 mmol, 0.31 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 20.2 mL | C(C)#N | C2H3N
product | 4-{3-(Cyanomethyl)-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-2,5-difluoro-N-[(1S)-2,2,2-trifluoro-1-methylethyl]benzamide | C(#N)CC1(CN(C1)C1=CC(=C(C(=O)N[C@H](C(F)(F)F)C)C=C1F)F)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C24H27BF5N5O3
